US04268510
5-Acetoxy-2-aminobenzyl alcohol (8.8 g.) was dissolved in dry diethyl ether (150 ml.), anhydrous chloral (9.6 ml.) was added with stirring over 5 minutes, and the mixture was stirred overnight at room temperature. The solvent was evaporated, and the residue crystallised on stirring with a mixture of methanol (50 ml.) and water (25 ml.) to give 6-acetoxy-1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine, m.p. 155°-157° C.

reactant | 5-Acetoxy-2-aminobenzyl alcohol | 8.8 g | C(C)(=O)OC=1C=CC(=C(CO)C1)N | C9H11NO3
reactant | chloral | 9.6 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 6-acetoxy-1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine | C(C)(=O)OC1=CC2=C(NC(OC2)C(Cl)(Cl)Cl)C=C1 | C11H10Cl3NO3
